US09421205B2
(a) tert-Butyl 2-(4-aminophenyl)piperidine-1-carboxylate (I36)
To a solution of 2-chloropyridine (0.816 g, 7.19 mmol) in nitrogen degassed dry DMF (20 mL) was added 4-nitrophenylboronic acid (1.00 g, 5.99 mmol), Cs2CO3 (7.19 g, 24.0 mmol), triphenylphosphine (0.236 g, 0.899 mmol) and Pd(OAc)2 (0.134 g, 0.599 mmol). The reaction mixture was heated at 80° C. for 24 hours. The reaction was cooled to room temperature and concentrated to dryness in vacuo. The crude material absorbed onto silica gel and purified by silica gel chromatography (Biotage Isolera, 40 g Si cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give a pale yellow solid. This material (0.365 g) was dissolved in 1 M HCl (1.5 mL) and methanol (15 mL) and PtO2 (0.036 g) was added under an atmosphere of nitrogen. The reaction was then subjected to a 40 psi hydrogen atmosphere in a Parr hydrogenator for 24 hours, and then filtered through celite which was washed with EtOAc (3×10 mL) and water (3×10 mL). The combined filtrate was concentrated in vacuo to give the crude material (0.460 g) as a pale brown-pink oily solid. This material was dissolved in anhydrous methanol (20 mL) and treated with triethylamine (0.889 mL, 6.38 mmol) followed by Boc anhydride (0.418 g, 1.91 mmol). The reaction was stirred at room temperature for 20 hours, concentrated in vacuo and EtOAc (100 mL) and sat. aq. NaHCO3 (50 mL) were added and the layers were separated. The aqueous layer was extracted with EtOAc (70 mL), the organics were combined and washed with water (50 mL), brine (50 mL), dried (MgSO4), filtered and concentrated in vacuo to give a yellow solid. The crude product was purified by silica gel chromatography (Biotage Isolera, 12 g Si cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.), to give the title compound (I36) (0.122 g, 8% yield over 3 steps) as a white solid; 1H NMR (400 MHz, d6-DMSO) δ 6.85-6.78 (m, 2H), 6.57-6.51 (m, 2H), 5.14 (d, J=3.7 Hz, 1H), 4.98-4.89 (m, 2H), 3.85 (d, J=13.0 Hz, 1H), 2.70-2.57 (m, 1H), 2.19 (d, J=13.9 Hz, 1H), 1.73-1.61 (m, 1H), 1.57-1.44 (m, 2H), 1.44-1.27 (m, 11H). LCMS Method C: rt 4.94 min; m/z 177.3 [M-Boc+2H]+.

reactant | 2-chloropyridine | 7.19 mmol, 0.816 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | 4-nitrophenylboronic acid | 5.99 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | Cs2CO3 | 24.0 mmol, 7.19 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | triphenylphosphine | 0.899 mmol, 0.236 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 6.38 mmol, 0.889 mL | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 1.91 mmol, 0.418 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | HCl | 1 M, 1.5 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd(OAc)2 | 0.599 mmol, 0.134 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | PtO2 | 0.036 g | O=[Pt]=O
solvent | methanol | 15 mL | CO | CH4O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-(4-aminophenyl)piperidine-1-carboxylate | 8% yield | NC1=CC=C(C=C1)C1N(CCCC1)C(=O)OC(C)(C)C | C16H24N2O2
